US04377580
A mixture of 4-amino-6-(4-methylpiperazinyl)quinazoline (2.19 g) and diethyl ethoxymethylenepropanedioate (2.13 g) in isobutylalcohol (9 ml) was stirred for 2 hours and 25 minutes at 100° C. and then cooled to ambient temperature. The resultant mixture was concentrated under reduced pressure to give a residue, which was recrystallized from ethanol to give crystalline diethyl [{6-(4-methylpiperazinyl)-4-quinazolinylamino}methylene]propanedioate (1.58 g).

reactant | 4-amino-6-(4-methylpiperazinyl)quinazoline | 2.19 g | NC1=NC=NC2=CC=C(C=C12)N1CCN(CC1)C | C13H17N5
reactant | diethyl ethoxymethylenepropanedioate | 2.13 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | isobutylalcohol | 9 ml | C(C(C)C)O | C4H10O
product | diethyl [{6-(4-methylpiperazinyl)-4-quinazolinylamino}methylene]propanedioate | 1.58 g | CN1CCN(CC1)C=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C21H27N5O4
